US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-methylthio-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (56 mg, 0.13 mmol) in dry DMF (1 mL) at 60° C. was added sodium methanethiolate (9.9 mg, 0.14 mmol). The reaction was heated to reflux for 30 min and then cooled to room temperature. The reaction was quenched with 1M aq. NaOH and extracted with EtOAc (3×5 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a yellow oil. The oil was purified by flash chromatography (silica gel, 0–33% EtOAc in hexanes) to give 34 mg of the desired product as a colorless oil. MS (ESI) 403 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.13 mmol, 56 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)Br)C(F)(F)F)=O)CC1 | C17H18BrF3N2O3
reactant | sodium methanethiolate | 0.14 mmol, 9.9 mg | C[S-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-methylthio-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 34 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)SC)C(F)(F)F)=O)CC1 | C18H21F3N2O3S
